US04451476
A solution of 10.5 g of 4-(6-bromohex-3-enyl)benzonitrile in 200 ml of absolute ethanol was hydrogenated in the presence of 0.25 g of platinum oxide catalyst. Isolation of the product afforded 10.4 g of 4-(6-bromohexyl)benzonitrile as a yellow oil which was distilled at 168°-170° C. (0.01 mm) to produce the compound as a colorless oil which solidified upon cooling.

reactant | 4-(6-bromohex-3-enyl)benzonitrile | 10.5 g | BrCCC=CCCC1=CC=C(C#N)C=C1 | C13H14BrN
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.25 g | [Pt]=O
product | 4-(6-bromohexyl)benzonitrile | 10.4 g | BrCCCCCCC1=CC=C(C#N)C=C1 | C13H16BrN
